US07750014B2
A mixture of methyl [5-(4-aminobenzyl)imidazo[1,2-c]pyrimidin-8-yl]acetate (17 mg, 0.06 mmol), p-trifluoromethylbenzoyl chloride (0.01 mL, 0.07 mmol) and triethylamine (0.016 mL, 0.11 mmol) in dichloromethane (1 mL) was stirred at room temperature for 1 hour. The reaction was quenched with water, and extracted with chloroform. The extracts were washed with water and brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by preparative TLC (silica gel, chloroform:methanol, 95/5) to give methyl [5-(4-{[4-(trifluoromethyl)benzoyl]amino}benzyl)imidazo[1,2-c]pyrimidin-8-yl]acetate (21.5 mg, 80%) as slightly yellow solid.

reactant | methyl [5-(4-aminobenzyl)imidazo[1,2-c]pyrimidin-8-yl]acetate | 0.06 mmol, 17 mg | NC1=CC=C(CC2=NC=C(C=3N2C=CN3)CC(=O)OC)C=C1 | C16H16N4O2
reactant | p-trifluoromethylbenzoyl chloride | 0.07 mmol, 0.01 mL | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | triethylamine | 0.11 mmol, 0.016 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | methyl [5-(4-{[4-(trifluoromethyl)benzoyl]amino}benzyl)imidazo[1,2-c]pyrimidin-8-yl]acetate | 21.5 mg, 80% | FC(C1=CC=C(C(=O)NC2=CC=C(CC3=NC=C(C=4N3C=CN4)CC(=O)OC)C=C2)C=C1)(F)F | C24H19F3N4O3
